US09402841B2
Step A: (S)-tert-butyl 3-((3-chloro-7-fluoroisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
To a solution of (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (1.56 g, 8.3 mmol) in THF (20 mL) was added NaH (0.33 g, 8.3 mmol) under nitrogen at 0° C. The mixture was warmed to RT over a 30 minute period and 1,3-dichloro-7-fluoroisoquinoline (0.9 g, 4.17 mmol) was added. The resulting mixture was stirred for 10 hours at RT. The mixture was subsequently diluted with EtOAc (100 mL), quenched with saturated aqueous NH4Cl (100 mL), and extracted with EtOAc (3×100 mL). The combined organic layers were dried over Na2SO4 and concentrated. The crude product was purified by column chromatography eluting with petroleum ether and ethyl acetate (PE/EtOAc=50:1-10:1 gradient) to give the title compound (1.1 g, 72%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.00-7.98 (m, 1H), 7.82-7.80 (m, 2H), 7.62 (s, 1H), 5.67-5.63 (d, J=16 Hz, 1H), 3.69-3.66 (m, 1H), 3.53-3.487 (m, 3H), 2.30-2.22 (m, 2H), 1.41-1.39 (d, J=10.8 Hz, 2H).

reactant | (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 8.3 mmol, 1.56 g | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | NaH | 8.3 mmol, 0.33 g | [H-].[Na+]
reactant | 1,3-dichloro-7-fluoroisoquinoline | 4.17 mmol, 0.9 g | ClC1=NC(=CC2=CC=C(C=C12)F)Cl | C9H4Cl2FN
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 3-((3-chloro-7-fluoroisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 1.1 g, 72% | ClC=1N=C(C2=CC(=CC=C2C1)F)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C18H20ClFN2O3
